US06610730B2
5-Bromo-1H-pyrrole-2-carboxylic acid methyl ester (1.49 mmol, 0.30 g, prepared according to the procedure described in Method 4 of Example 2) in NMP (10 ml) was treated with triphenylarsine (0.30 mmol, 91 mg), tris(dibenzylideneacetone) dipalladium(0) (0.07 mmol, 68 mg), and 4-(trimethylstannyl)-isoquinoline (2.22 mmol, 0.65 g), then heated to reflux under an argon atmosphere overnight. The resulting mixture was concentrated under reduced pressure, then purified by silica gel chromatography to provide 0.21 g (55%) of 5-isoquinolin-4-yl-1H-pyrrole-2-carboxylic acid methyl ester. 1H NMR (CDCl3) δ9.81 (1H, br s), 9.35 (1H, s), 8.66 (1H, s), 8.31 (1H, d, J=8.5), 8.10 (1H, d, J=8.1), 7.91 (1H, t, J=15.2), 7.79 (1H, t, J 15.2), 7.11 (1H, dd, J=3.8, 2.5), 6.64 (1H, dd, J=3.7, 2.7), 3.90 (3H, s).

reactant | 5-Bromo-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1NC(=CC1)Br | C6H6BrNO2
reactant | triphenylarsine | 0.30 mmol, 91 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | 4-(trimethylstannyl)-isoquinoline | 2.22 mmol, 0.65 g | C[Sn](C1=CN=CC2=CC=CC=C12)(C)C
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.07 mmol, 68 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 5-isoquinolin-4-yl-1H-pyrrole-2-carboxylic acid methyl ester | 0.21 g, 55% | COC(=O)C=1NC(=CC1)C1=CN=CC2=CC=CC=C12 | C15H12N2O2
